US04870084
To a solution of 2.4 ml. of 2.1M n-butyllithium in 3.7 ml. tetrahydrofuran at -78° C. is added a solution of 0.26 ml. (5 mmole) acetonitrile in 3.7 ml. THF and the mixture is stirred for one hour. at -78° C. A solution of 1.1 g. (2.0 mmole) p-nitrophenyl 8-benzyloxy-3,3-dimethyl-6 -(5-phenyl-2-pentyloxy)tetralin-1-carboxylate in 3.7 ml. THF is added and stirring continued at -78° C. for 30 minutes. The reaction mixture is warmed to room temperature, quenched with 7 ml. 10% hydrochloric acid and extracted with ethyl ether. Isolation of product as in the preceding Example affords 1.13 g. of crude benzyl ether which gives 500 mg. of purified intermediate by silica gel chromatography: mass spectrum-molecular ion, 495.

reactant | n-butyllithium | 2.1M | C(CCC)[Li]
reactant | acetonitrile | 5 mmole | C(C)#N | C2H3N
reactant | p-nitrophenyl 8-benzyloxy-3,3-dimethyl-6 -(5-phenyl-2-pentyloxy)tetralin-1-carboxylate | 2.0 mmole | C(C1=CC=CC=C1)OC=1C=C(C=C2CC(CC(C12)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C)C)OC(C)CCCC1=CC=CC=C1 | C37H39NO6
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
